US06710056B2
2-Methoxy-5-(thiophene-3-yl)benzoic acid:
Methyl 2-Methoxy-5-(thiophene-3-yl)benzoate (124 mg) was dissolved in a solvent mixture of tetrahydrofuran/methanol/water (2/1/1, 3 ml). Lithium hydroxide (53 mg) was added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the residue was added to 3 N hydrochloric acid. The white solid thus precipitated was taken by the filtration as the title compound.

reactant | Methyl 2-Methoxy-5-(thiophene-3-yl)benzoate | 124 mg | COC1=C(C(=O)OC)C=C(C=C1)C1=CSC=C1 | C13H12O3S
reactant | Lithium hydroxide | 53 mg | [OH-].[Li+]
solvent | toluene ethanol water | 3 ml | C1(=CC=CC=C1)C.C(C)O.O
product | 2-Methoxy-5-(thiophene-3-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)C1=CSC=C1 | C12H10O3S
